US06759554B2
N-tert-Butoxycarbonyl-N-(3,5-dimethylphenyl)aniline
An oven-dried resealable Schlenk tube was charged with CuI (2.0 mg, 0.0105 mmol, 1.0 mol %), N-tert-butoxycarbonylaniline (200 mg, 1.04 mmol), K3PO4 (450 mg, 2.12 mmol), evacuated and backfilled with argon. trans-1,2-Cyclohexanediamine (13 μL, 0.108 mmol, 10 mol %), 5-iodo-m-xylene (190 μL, 1.32 mmol) and dioxane (1.0 mL) were added under argon. The Schlenk tube was sealed with a Teflon valve and the reaction mixture was stirred magnetically at 110° C. for 23 h. The resulting pale yellow suspension was cooled to room temperature and filtered through a 0.5×1 cm pad of silica gel eluting with 10 mL of ethyl acetate. The filtrate was concentrated and the residue was purified by flash chromatography on silica gel (2×20 cm; hexane-ethyl acetate 20:1; 20 mL fractions). Fractions 12-20 provided 299 mg (97% yield) of the product as white crystals. 1H NMR (400 MHz, CDCl3): δ 7.36−7.30 (m, 2H), 7.27−7.16 (m, 3H), 6.87 (s, 2H), 6.85 (s, 1H), 2.30 (s, 6H), 1.48 (s, 9H). 13C NMR (100 MHz, CDCl3): δ 153.9, 143.2, 142.7, 138.3, 128.6, 127.5, 126.9, 125.4, 124.8, 80.9, 28.2, 21.2. Anal. Calcd for C19H23NO2: C, 76.74; H, 7.79. Found: C, 76.61; 7.87.

reactant | N-tert-butoxycarbonylaniline | 1.04 mmol, 200 mg | C(C)(C)(C)OC(=O)NC1=CC=CC=C1 | C11H15NO2
reactant | K3PO4 | 2.12 mmol, 450 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | trans-1,2-Cyclohexanediamine | 0.108 mmol, 13 μL | [C@@H]1([C@@H](CCCC1)N)N | C6H14N2
reactant | 5-iodo-m-xylene | 1.32 mmol, 190 μL | IC=1C=C(C=C(C1)C)C | C8H9I
catalyst | CuI | 0.0105 mmol, 2.0 mg | [Cu]I
solvent | dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
product | N-tert-Butoxycarbonyl-N-(3,5-dimethylphenyl)aniline | 299 mg, 97% yield | C(C)(C)(C)OC(=O)N(C1=CC=CC=C1)C1=CC(=CC(=C1)C)C | C19H23NO2
